US05686449
N-methyl-2-nitroaniline
Methylamine hydrochloride (2.7 g) and a 10% aqueous solution of sodium hydroxyde (30 ml) were added to a solution of 1-fluoro-2-nitrobenzene (2.82 g) in THF (20 ml). The mixture was kept at 23° for 24 h. The reaction mixture was then concentrated in vacuo, taken up with 10% aqueous sodium hydroxide (30 ml) and extracted with EA (3×30 ml). The combined organic layers were washed with a saturated ammonium chloride solution (50 ml), brine (50 ml) and dried. Evaporation of the solvent gave the title compound as an orange oil (2.894 g).

reactant | Methylamine hydrochloride | 2.7 g | Cl.CN
reactant | sodium | [Na] | Na
reactant | 1-fluoro-2-nitrobenzene | 2.82 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-methyl-2-nitroaniline | 2.894 g | CNC1=C(C=CC=C1)[N+](=O)[O-] | C7H8N2O2
